US04845293
Preparation of 4-chloro-2-(β-hydroxyethoxyethyl)amino6-(β-hydroxyethoxyethyl)aminonitrobenzene
The mixture consisting of 0.1 mole (22.6 g) of 2,4,6-trichloronitrobenzene, 0.6 mole (63 g) of 2-(β-aminoethoxy)ethanol and 20 ml of dioxan is heated to reflux of the dioxon. After 4 hours, the reaction mixture is poured onto to 200 g of ice. The product expected crystallizes on acidifying with concentrated hydrochloric acid. After draining, washing with water and drying by heating under vacuum, the product is recrystallized from acetonitrile and then from toluene. It melts at 83° C.

reactant | 2,4,6-trichloronitrobenzene | 0.1 mole, 22.6 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 2-(β-aminoethoxy)ethanol | 0.6 mole, 63 g | NCCOCCO | C4H11NO2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-2-(β-hydroxyethoxyethyl)amino6-(β-hydroxyethoxyethyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCCOCCO)[N+](=O)[O-])NCCOCCO | C14H22ClN3O6
